US05863911
4.10 g (18.2 mmol) of ferrocenylacetonitrile are dissolved in 80 ml of ethanol. 10.08 g of KOH (180 mmol) are dissolved in 80 ml of water. The potassium hydroxide solution is poured into the first solution and the mixture is brought to reflux for 4 hours. The reaction mixture is concentrated in order to remove most of the ethanol. The product is extracted with 3 times 30 ml of ether. The aqueous phase is acidified with hydrochloric acid to a pH of 1 and is again extracted with 4 times 50 ml of ethyl ether. The organic phases are combined, dried over magnesium sulfate, filtered and then evaporated. 4.20 g of ferrocenylacetic acid are obtained in the form of a yellow solid.

reactant | ferrocenylacetonitrile | 18.2 mmol, 4.10 g | [C-]1(C=CC=C1)CC#N.[CH-]1C=CC=C1.[Fe+2]
reactant | KOH | 180 mmol, 10.08 g | [OH-].[K+]
reactant | ethanol | 80 ml | C(C)O | C2H6O
solvent | water | 80 ml | O | H2O
product | ferrocenylacetic acid | 4.20 g | [C-]1(C=CC=C1)CC(=O)O.[CH-]1C=CC=C1.[Fe+2] | InChI=1S/C7H7O2.C5H5.Fe/c8-7(9)5-6-3-1-2-4-6;1-2-4-5-3-1;/h1-4H,5H2,(H,8,9);1-5H;/q2*-1;+2
